US08710100B2
2-Hydroxy-3-(4-nitrophenyl)acrylic acid (20 g, 95.6 mmol) was suspended in DMF (200 ml). Cs2CO3 (74.9 g, 229.9 mmol) and diethyl sulphate (26.3 ml, 201 mmol) were added and dissolution was observed. After stirring for 18 hr at 18° C. water (350 ml) and ethyl acetate (250 ml) were added and the layers separated. The aqueous layer was further extracted with ethyl acetate (5×200 ml) then the combined organics were washed with water (2×200 ml), brine (2×200 ml) and dried over magnesium sulfate. The organics were concentrated to dryness to obtain ethyl 2-ethoxy-3-(4-nitrophenyl)-acrylate as an orange solid containing 3.6% by mass DMF (27.6 g wet, >100% yield). 1H NMR (δ, 250 MHz, DMSO-d6): 1.32 (t, 6-H, 2×CH2CH3), 4.13 (q, 2-H, CH2CH3), 4.30 (q, 2-H, CH2CH3), 6.99 (s, 1-H, CH═), 8.06 (d, 2-H, CHaromatic), 8.26 (d, 2-H, CHaromatic).

reactant | 2-Hydroxy-3-(4-nitrophenyl)acrylic acid | 95.6 mmol, 20 g | OC(C(=O)O)=CC1=CC=C(C=C1)[N+](=O)[O-] | C9H7NO5
reactant | Cs2CO3 | 229.9 mmol, 74.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | diethyl sulphate | 201 mmol, 26.3 ml | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | water | 350 ml | O | H2O
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-ethoxy-3-(4-nitrophenyl)-acrylate | C(C)OC(C(=O)OCC)=CC1=CC=C(C=C1)[N+](=O)[O-] | C13H15NO5
